US09278910B2
Prepared using General Procedure 12: A suspension of 4-formyl-3-methoxyphenyl 4-(heptyloxy)benzoate (340 mg, 0.918 mmol) INT-25, tert-butyl 2-aminoacetate HCl (154 mg, 0.918 mmol), TEA (128 μL, 0.918 mmol) and magnesium sulfate (500 mg) in diethyl ether (20 mL) was stirred vigorously for 18 h. The reaction mixture was filtered and solvent removed under vacuum. Crude material was taken up into THF/MeOH (10 mL, 10 mL) and sodium borohydride (34.7 mg, 0.918 mmol) added with cooling to 0° C. After stirring for 1 h at room temperature the reaction was quenched with NaHCO3 (10 mL) and the solvent removed under vacuum. The residue was diluted with NaHCO3 (50 mL) and the product extracted with EA (100 mL). The organic extracts were combined and washed with brine (100 mL) and pre-absorbed onto silica gel then purified by chromatography (EA/isohexanes) to afford 270 mg (58%) of 4-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)-3-methoxyphenyl 4-(heptyloxy)benzoate INT-26 as a white solid. LCMS-ESI (m/z) calculated for C28H39NO6: 485; found 486 [M+H]+, tR=2.23 min (Method 10).

reactant | 4-formyl-3-methoxyphenyl 4-(heptyloxy)benzoate | 0.918 mmol, 340 mg | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC(=C(C=C2)C=O)OC)C=C1 | C22H26O5
reactant | tert-butyl 2-aminoacetate HCl | 0.918 mmol, 154 mg | Cl.NCC(=O)OC(C)(C)C
reactant | magnesium sulfate | 500 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 0.918 mmol, 34.7 mg | [BH4-].[Na+]
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | 4-(((2-(tert-butoxy)-2-oxoethyl)amino)methyl)-3-methoxyphenyl 4-(heptyloxy)benzoate | 270 mg, 58% | C(CCCCCC)OC1=CC=C(C(=O)OC2=CC(=C(C=C2)CNCC(=O)OC(C)(C)C)OC)C=C1 | C28H39NO6
